US08236835B2
Synthesis of N-(4-fluorobenzyl)-4-methyl-2-(2-oxo-3-(3,3,3-trifluoropropylamino)pyrrolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 5, making variation as required to use 3,3,3-trifluoropropan-1-amine in place of 2-cyclopropylethanamine to react with 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 19% yield: mp 142-143° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.35 (m, 2H), 7.07-6.93 (m, 2H), 6.00 (br s, 1H), 4.51 (d, J=5.4 Hz, 2H), 4.29-4.16 (m, 1H), 3.65-3.81 (m, 1H), 3.76-3.64 (m, 1H), 3.15-3.02 (m, 1H), 2.98-2.85 (m, 1H), 2.61 (s, 3H), 2.60-2.48 (m, 1H), 2.43-2.22 (m, 2H), 2.08-1.89 (m, 1H), 1.79 (br s, 1H); MS (ES+) m/z 445.3 (M+1).

reactant | 3,3,3-trifluoropropan-1-amine | FC(CCN)(F)F | C3H6F3N
reactant | 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | BrC1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C16H15BrFN3O2S
product | N-(4-fluorobenzyl)-4-methyl-2-(2-oxo-3-(3,3,3-trifluoropropylamino)pyrrolidin-1-yl)thiazole-5-carboxamide | 19% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(C(CC2)NCCC(F)(F)F)=O)C)C=C1 | C19H20F4N4O2S
